### PR TITLE
[Merged by Bors] - feat: projective families of measures and projective limits

### PR DESCRIPTION
**Pull request by RemyDegenne**
Co-authored-by: Peter Pfaffelhuber <p.p@stochastik.uni-freiburg.de>

Part of the formalization of the Kolmogorov Extension theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Constructions/Projective.lean [hunk 1]
```diff
@@ -0,0 +1,146 @@
...
+def IsProjectiveMeasureFamily [∀ i, MeasurableSpace (α i)]
+    (P : ∀ J : Finset ι, Measure (∀ j : J, α j)) : Prop :=
+  ∀ (I J : Finset ι) (hJI : J ⊆ I),
+    P J = (P I).map (fun (x : ∀ i : I, α i) (j : J) ↦ x ⟨j, hJI j.2⟩)
+
+namespace IsProjectiveMeasureFamily
+
+variable {I J : Finset ι}
+
+lemma congr_cylinder_of_subset [Nonempty (∀ i, α i)] (hP : IsProjectiveMeasureFamily P)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Constructions/Projective.lean:49]: I'm not sure why you would need a nonemptyness assumption here: if the product space is empty, then all the measures are zero (by `measure_univ_eq` below), so the conclusion is still true.

File: Mathlib/MeasureTheory/Constructions/Projective.lean [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+    (I : Finset ι) {s : Set (∀ i : I, α i)} (hs : MeasurableSet s) :
+    μ (cylinder I s) = P I s := by
+  rw [cylinder, ← Measure.map_apply _ hs, h I]
+  exact measurable_pi_lambda _ (fun _ ↦ measurable_pi_apply _)
+
+lemma measure_univ_eq (hμ : IsProjectiveLimit μ P) (I : Finset ι) :
+    μ univ = P I univ := by
+  rw [← cylinder_univ I, hμ.measure_cylinder _ MeasurableSet.univ]
+
+lemma isFiniteMeasure [hι : Nonempty ι] [∀ i, IsFiniteMeasure (P i)]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Constructions/Projective.lean:115]: No need for nonemptyness here: you can use the empty finset instead of a singleton. Same thing for all other statements in this paragraph.

**Review by sgouezel — COMMENTED** [review]
LGTM, thanks!

**Comment by sgouezel** [comment]
bors r+
Thanks!
